US07956054B2
(R)-4-(2-Fluorophenyl)-3-[(5-propyl-1-{6-[2-(1H-tetrazol-5-yl)phenyl]pyridin-3-ylmethyl}-1H-pyrazole-3-carbonyl)amino]butyric acid
A solution of 5-propyl-1-{6-[2-(1H-tetrazol-5-yl)phenyl]pyridin-3-ylmethyl}-1H-pyrazole-3-carboxylic acid (40 mg, 103 μmol), HATU (39.0 mg, 0.103 mmol) and DIPEA (89.4 μL, 514 μmol) in DMF (3.2 mL, 41.1 mmol) was stirred to pre-activate the acid. After 30 minutes, (R)-3-amino-4-(2-fluorophenyl)butanoic acid.HCl (24.0 mg, 103 μmol) was added. The resulting solution was stirred overnight. The mixture was concentrated, re-dissolved in water/MeCN/TFA and purified using reverse phase liquid chromatography to yield the title compound (15.7 mg; 100% purity) as a TFA salt. MS m/z: [M+H]+ calcd for C30H29FN8O3, 569.23; found 569.2.

reactant | 5-propyl-1-{6-[2-(1H-tetrazol-5-yl)phenyl]pyridin-3-ylmethyl}-1H-pyrazole-3-carboxylic acid | 103 μmol, 40 mg | C(CC)C1=CC(=NN1CC=1C=NC(=CC1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)O | C20H19N7O2
reactant | HATU | 0.103 mmol, 39.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 514 μmol, 89.4 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 41.1 mmol, 3.2 mL | CN(C)C=O | C3H7NO
reactant | (R)-3-amino-4-(2-fluorophenyl)butanoic acid | N[C@@H](CC(=O)O)CC1=C(C=CC=C1)F | C10H12FNO2
reactant | HCl | 103 μmol, 24.0 mg | Cl | ClH
product | (R)-4-(2-Fluorophenyl)-3-[(5-propyl-1-{6-[2-(1H-tetrazol-5-yl)phenyl]pyridin-3-ylmethyl}-1H-pyrazole-3-carbonyl)amino]butyric acid | 15.7 mg, 100% | FC1=C(C=CC=C1)C[C@H](CC(=O)O)NC(=O)C1=NN(C(=C1)CCC)CC=1C=NC(=CC1)C1=C(C=CC=C1)C1=NN=NN1 | C30H29FN8O3
